US08466114B2
To a stirred solution of 5-bromo-2-methoxybenzaldehyde (5.0 g, 23.25 mmol) in toluene (50 mL) was added ethylene glycol (2.6 mL, 46.5 mmol) and p-toluenesulfonic acid monohydrate (0.45 g, 2.32 mmol) and the reaction mixture was azeotroped for 2 h, quenched with sat. NaHCO3 (50 mL). Reaction mixture was concentrated under reduced pressure, extracted with ethyl acetate (2×100 mL), washed with water, brine, dried over sodium sulfate, concentrated and purified by silica gel column chromatography to furnish 2-(5-bromo-2-methoxy-phenyl)-[1,3]dioxolane (3.75 g).

reactant | 5-bromo-2-methoxybenzaldehyde | 23.25 mmol, 5.0 g | BrC=1C=CC(=C(C=O)C1)OC | C8H7BrO2
reactant | ethylene glycol | 46.5 mmol, 2.6 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 2.32 mmol, 0.45 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-bromo-2-methoxy-phenyl)-[1,3]dioxolane | 3.75 g | BrC=1C=CC(=C(C1)C1OCCO1)OC | C10H11BrO3
